US06982348B2
4-fluoro-N-[(1RS,2SR)-2-(4-fluorophenyl)-2-hydroxy-1-(3-isopropoxybenzyl)ethyl]-1-naphthamide
To a solution of (1RS,2SR)-2-amino-1-(4-fluorophenyl)-3-[3-(isopropyloxy)phenyl]-1-propanol (0.46 g, 1.5 mmol) and 4-fluoronaphthalene-1-carboxylic acid (0.34 g, 1.8 mmol) in acetonitrile (20 ml) were added 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride (0.36 g, 2.1 mmol) and 1-hydroxybenzotriazole hydrate (0.32 g, 2.1 mmol), and the mixture was stirred at room temperature for 5 hrs. To the reaction solution was added water (100 ml), and the mixture was extracted with ethyl acetate (100 ml×2). The extract was washed with water, dried over anhydrous magnesium sulfate and evaporated under reduced pressure. The residue was purified by silica gel chromatography (chloroform:ethyl acetate=10:1) to give the objective substance (0.65 g, 91%) as crystals.

reactant | (1RS,2SR)-2-amino-1-(4-fluorophenyl)-3-[3-(isopropyloxy)phenyl]-1-propanol | 1.5 mmol, 0.46 g | NC(C(O)C1=CC=C(C=C1)F)CC1=CC(=CC=C1)OC(C)C | C18H22FNO2
reactant | 4-fluoronaphthalene-1-carboxylic acid | 1.8 mmol, 0.34 g | FC1=CC=C(C2=CC=CC=C12)C(=O)O | C11H7FO2
reactant | 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride | 2.1 mmol, 0.36 g | Cl.C(C)N=C=NCCCN(C)C
reactant | 1-hydroxybenzotriazole hydrate | 2.1 mmol, 0.32 g | O.ON1N=NC2=C1C=CC=C2
solvent | acetonitrile | 20 ml | C(C)#N | C2H3N
solvent | water | 100 ml | O | H2O
product | 4-fluoro-N-[(1RS,2SR)-2-(4-fluorophenyl)-2-hydroxy-1-(3-isopropoxybenzyl)ethyl]-1-naphthamide | FC1=CC=C(C2=CC=CC=C12)C(=O)NC(C(O)C1=CC=C(C=C1)F)CC1=CC(=CC=C1)OC(C)C | C29H27F2NO3
